* c:\users\mamat\esim-workspace\bjt_ce_config\bjt_ce_config.cir

.include ZTX1048A.lib
v1 vce gnd  dc 12
r1  net-_r1-pad1_ net-_q1-pad1_ 1k
r2  net-_q1-pad2_ ib 1k
* u_ic1  vce net-_r1-pad1_ plot_i2
i1 ib gnd  dc 20m
q1 net-_q1-pad1_ net-_q1-pad2_ gnd ZTX1048A
v_u_ic1 vce net-_r1-pad1_ 0
.dc v1 0e-00 10e-00 0.005e-00 i1 0e-06 80e-06 10e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot i(v_u_ic1)
.endc
.end
